US08293909B2
5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide.
5-(Benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (0.11 g, 0.22 mmol, 1 eq), EDCI.HCl (0.048 g, 0.25 mmol, 1.1 eq), HOBT (0.036 g, 0.27 mmol, 1.2 eq), DIPEA (0.12 ml, 0.68 mmol, 3 eq) were dissolved in dichloromethane and the reaction was stirred at room temperature for 10 minutes. Then Methylamine (1 M in THF, 0.6 ml, 5 eq) was added to the above solution and the reaction was stirred at room temperature for 14 h. Finally, the mixture was diluted with water and the product was extracted with dichloromethane. The organic layer was washed with water, dried and concentrated. Yield: 0.1 g (90%). 1HNMR (400 MHz, DMSO-d6): δ 1.06 (t, J=7.12 Hz, 3H), 2.77 (s, 3H), 3.00 (s, 3H), 3.62 (br m, 2H), 5.30 (s, 2H), 7.307.32 (m, 3H), 7.33 (d, J=5.8 Hz, 1H), 7.40-7.43 (m, 2H), 7.53-7.55 (m, 2H), 7.81 (t, J=3.52 Hz, 1H), 7.95 (s, 2H), 8.88 (s, 1H). LCMS: (ES+) m/z=497.0 (M+H).

reactant | 5-(Benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.22 mmol, 0.11 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(=O)O)C2=CC=C(C=C2)F | C24H22FN3O5S
reactant | EDCI.HCl | 0.25 mmol, 0.048 g, 1.1 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.27 mmol, 0.036 g, 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.68 mmol, 0.12 ml, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | Methylamine | 1 M, 0.6 ml, 5 eq | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(=O)NC)C2=CC=C(C=C2)F | C25H25FN4O4S
